US08022062B2
6-Hydroxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add borontribromide (21.6 mL, 1.0 M solution in DCM) to a solution of 6-methoxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3.1 g, 10.8 mmol) in DCM (200 mL) at 0° C. under nitrogen. Warm to room temperature and stir overnight. Dilute with DCM and wash with water. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 9:1) to obtain the desired intermediate as a solid (2.74 g, 93%). MS (ES+) m/z: 274 (M+H)+.

reactant | 6-methoxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 10.8 mmol, 3.1 g | COC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C | C14H16F3NO2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.74 g, 93% | OC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C | C13H14F3NO2
